US04267381
87 g (0.27 mol) of 1-bromo-1-(4-chlorophenoxy)-3,3-dimethyl-4-fluoro-2-butanone were dissolved in 200 ml of acetone and the solution was added dropwise to a boiling solution of 46 g (0.66 mol) of 1,2,4-triazole in 200 ml of acetone. After heating the mixture under reflux for one hour, the solvent was removed in vacuo, the residue was taken up in methylene chloride, the methylene chloride mixture was washed several times with water and the organic phase was dried over sodium sulphate. After removing the solvent in vacuo, the residue was crystallized with petroleumm ether. 75 g (89% of theory) of 1-(4-chlorophenoxy)-3,3-dimethyl-4-fluoro-1-(1,2,4-triazol-1-yl)-2-butanone of melting point 60° to 63° C. were obtained.

reactant | 1-bromo-1-(4-chlorophenoxy)-3,3-dimethyl-4-fluoro-2-butanone | 0.27 mol, 87 g | BrC(C(C(CF)(C)C)=O)OC1=CC=C(C=C1)Cl | C12H13BrClFO2
reactant | 1,2,4-triazole | 0.66 mol, 46 g | N1N=CN=C1 | C2H3N3
solvent | acetone | 200 ml | CC(=O)C | C3H6O
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 1-(4-chlorophenoxy)-3,3-dimethyl-4-fluoro-1-(1,2,4-triazol-1-yl)-2-butanone | 75 g, 89% | ClC1=CC=C(OC(C(C(CF)(C)C)=O)N2N=CN=C2)C=C1 | C14H15ClFN3O2
